US07528138B2
Synthesis of 4-(6-(methylthio)pyrimidin-4-yl)-1H-pyrazole-3,5-diamine
2-(6-(methylthio)pyrimidin-4-yl)malononitrile (11.4 g, 0.06 mol) was suspended in 150 mL EtOH and hydrazine hydrate (3 mL, 0.06 mol) was added. The reaction mixture was heated to reflux for 3 days. The reaction mixture was concentrated to a solid which was suspended in ethyl acetate (100 mL), and filtered. This solid was dried to give the product, 10.4 g, 46.8 mmol, 78%, ca. 80% pure).

reactant | 2-(6-(methylthio)pyrimidin-4-yl)malononitrile | 0.06 mol, 11.4 g | CSC1=CC(=NC=N1)C(C#N)C#N | C8H6N4S
reactant | hydrazine hydrate | 0.06 mol, 3 mL | O.NN
solvent | EtOH | 150 mL | CCO | C2H6O
product | 4-(6-(methylthio)pyrimidin-4-yl)-1H-pyrazole-3,5-diamine | CSC1=CC(=NC=N1)C=1C(=NNC1N)N | C8H10N6S
